US08633189B2
To a flask charged with 10% Pd/C (170 mg) under inert atmosphere was added a solution of 2-ethyl-4-fluoro-5-nitrophenyl methyl carbonate (1.7 g, 6.99 mmol) in methanol (17 mL). The mixture was stirred overnight under an atmosphere of H2. The reaction was filtered and concentrated in vacuo to provide 5-amino-2-ethyl-4-fluorophenyl methyl carbonate (1.400 g, 6.57 mmol). 1H NMR (400.0 MHz, DMSO-d6) δ 6.92 (d, J=12.0 Hz, 1H), 6.52 (d, J=8.1 Hz, 1H), 5.16 (s, 2H), 3.81 (s, 3H), 2.33 (q, J=7.5 Hz, 2H), 1.05 (t, J=7.5 Hz, 3H).

reactant | 2-ethyl-4-fluoro-5-nitrophenyl methyl carbonate | 6.99 mmol, 1.7 g | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)CC)(OC)=O | C10H10FNO5
solvent | methanol | 17 mL | CO | CH4O
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | 5-amino-2-ethyl-4-fluorophenyl methyl carbonate | 6.57 mmol, 1.400 g | C(OC1=C(C=C(C(=C1)N)F)CC)(OC)=O | C10H12FNO3
